US08304557B2
(v) N-{6-[5-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)-2-methylphenoxy][1,2,4]triazolo[1,5-a]pyridin-2-yl}-1,3-oxazole-4-carboxamide
To a solution of 1,3-oxazole-4-carboxylic acid (107 mg, 946 μmol) in tetrahydrofuran (3 mL) were added oxalyl chloride (123 μL, 1.42 mmol) and N,N-dimethylformamide (20 μL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated under reduced pressure. The obtained residue and N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-4-methylphenyl}-3-(1-cyano-1-methylethyl)benzamide (202 mg, 473 μmol) were dissolved in pyridine (5 mL), and the mixture was stirred at room temperature for 15 hr. A saturated aqueous sodium hydrogen carbonate solution (10 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (30 mL, 2×10 mL). The combined organic layer was washed with saturated brine (10 mL) and dried over anhydrous sodium sulfate. The insoluble material was filtered off, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by basic silica gel column chromatography (NH silica gel, ethyl acetate/methanol=100/0→98/2), and fractions containing the desired product were concentrated under reduced pressure. The obtained residue was recrystallized from ethanol to give the title compound (196 mg, 79%) as a colorless powder.

reactant | 1,3-oxazole-4-carboxylic acid | 946 μmol, 107 mg | O1C=NC(=C1)C(=O)O | C4H3NO3
reactant | oxalyl chloride | 1.42 mmol, 123 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-{3-[(2-amino[1,2,4]triazolo[1,5-a]pyridin-6-yl)oxy]-4-methylphenyl}-3-(1-cyano-1-methylethyl)benzamide | 473 μmol, 202 mg | NC1=NN2C(C=CC(=C2)OC=2C=C(C=CC2C)NC(C2=CC(=CC=C2)C(C)(C)C#N)=O)=N1 | C24H22N6O2
reactant | sodium hydrogen carbonate | 10 mL | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 20 μL | CN(C=O)C | C3H7NO
product | N-{6-[5-({[3-(1-cyano-1-methylethyl)phenyl]carbonyl}amino)-2-methylphenoxy][1,2,4]triazolo[1,5-a]pyridin-2-yl}-1,3-oxazole-4-carboxamide | 196 mg, 79% | C(#N)C(C)(C)C=1C=C(C=CC1)C(=O)NC=1C=CC(=C(OC=2C=CC=3N(C2)N=C(N3)NC(=O)C=3N=COC3)C1)C | C28H23N7O4
